US07307094B2
A mixture of 2-(4-methoxy-2-methylphenyl)benzoxazole-4-carboxylic acid (100 mg, 0.35 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (134 mg, 0.70 mmol), 1-hydroxybenzotriazole (95 mg, 0.70 mmol) and 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride (99 mg, 0.44 mmol) in DMF (3 mL) was stirred at room temperature for 10 min, then triethylamine (0.20 mL, 1.40 mmol) was added. The resulting reaction mixture was stirred at room temperature overnight. The mixture was diluted with dichloromethane and then washed with a saturated solution of sodium bicarbonate. The aqueous layer was further extracted with dichloromethane (2×50 mL). The combined organic layers were washed with water (2×50 mL), brine (2×50 mL), dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 90:9:1 dichloromethane/methanol/concentrated ammonium hydroxide) and recrystallization from acetonitrile to afford N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-2-(4-methoxy-2-methylphenyl)benzoxazole-4-carboxamide (24 mg, 16%) as a light yellow solid: 1H NMR (500 MHz, CDCl3) δ 9.11 (d, J=7.2 Hz, 1H), 8.22-8.16 (m, 2H), 7.67 (dd, J=8.8, 0.8 Hz, 1H), 7.43 (t, J=7.9 Hz, 1H), 6.94-6.90 (m, 2H), 4.66-4.60 (m, 1H), 3.90 (s, 3H), 3.15-3.10 (m, 2H), 2.89 (s, 3H), 2.66-2.58 (m, 2H), 2.55 (s, 3H), 2.10-1.90 (m, 3H), 1.58-1.42 (m, 3H), 1.20-1.05 (m, 2H); MS (ESI+) m/z 420 (M+H); HPLC>99% (AUC), tR=13.54 min.

reactant | 2-(4-methoxy-2-methylphenyl)benzoxazole-4-carboxylic acid | 0.35 mmol, 100 mg | COC1=CC(=C(C=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)O)C | C16H13NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.70 mmol, 134 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.70 mmol, 95 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride | 0.44 mmol, 99 mg | Cl.Cl.NC1CC2CCCC(C1)N2C
reactant | triethylamine | 1.40 mmol, 0.20 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-2-(4-methoxy-2-methylphenyl)benzoxazole-4-carboxamide | 24 mg, 16% | CN1C2CC(CC1CCC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=C(C=C(C=C1)OC)C | C25H29N3O3
